### PR TITLE
[Merged by Bors] - chore(RingTheory/HopfAlgebra): make tensor product heterobasic

### PR DESCRIPTION
**Pull request by erdOne**
Suppose `S` is an `R`-algebra. Given an `S`-coalgebra `A` and `R`-coalgebra `B`, we generalize the existing construction to give `A ⊗[R] B` an `S`-coalgebra structure. Similar generalizations are done for bialgebras and Hopf algebras.

---

- [x] depends on: #25196
- [x] depends on: #25216

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/TensorProduct/Tower.lean [hunk 1]
```diff
@@ -469,60 +471,65 @@ end leftComm
...
+
 /-- Heterobasic version of `tensorTensorTensorComm`. -/
 def tensorTensorTensorComm :
-    (M ⊗[R] N) ⊗[A] (P ⊗[R] Q) ≃ₗ[A] (M ⊗[A] P) ⊗[R] (N ⊗[R] Q) :=
-(assoc R A A (M ⊗[R] N) P Q).symm
-  ≪≫ₗ congr (rightComm R A M P N).symm (1 : Q ≃ₗ[R] Q)
+    (M ⊗[S] N) ⊗[A] (P ⊗[R] Q) ≃ₗ[B] (M ⊗[A] P) ⊗[S] (N ⊗[R] Q) :=
+(assoc R A B (M ⊗[S] N) P Q).symm
+  ≪≫ₗ congr (rightComm A S B M N P) (.refl R Q)
   ≪≫ₗ assoc R _ _ (M ⊗[A] P) N Q
```
[the remark this answers is not in the document]
Comment (erdOne) [reply Mathlib/LinearAlgebra/TensorProduct/Tower.lean:516]: It is #25216. By there way where can I find your thesis?

**Review by eric-wieser — COMMENTED** [review]
Can you make sure the module docstrings of these files are up to date with this change?

**Review by eric-wieser — APPROVED** [review]
Much cleaner after the split, thanks! I'll take a final look tomorrow, but am happy for someone else to do it first.

**Review by YaelDillies — APPROVED** [review]
Can you explain (eg in the PR description) what "heterobasic" means to you? For example I am surprised that there's an asymmetry between the left and right side of the tensor product. If this is indeed what you mean by "heterobasic", then this PR achieves its goal and I'll leave to @eric-wieser to merge it.

File: Mathlib/RingTheory/Bialgebra/TensorProduct.lean [hunk 2]
```diff
@@ -22,128 +22,129 @@ namespace Bialgebra.TensorProduct
...
 @[simp]
-theorem rid_tmul (r : R) (a : A) : Bialgebra.TensorProduct.rid R A (a ⊗ₜ r) = r • a := rfl
+theorem rid_tmul (r : R) (a : A) : Bialgebra.TensorProduct.rid R S A (a ⊗ₜ r) = r • a := rfl
 
 @[simp]
-theorem rid_symm_apply (a : A) : (Bialgebra.TensorProduct.rid R A).symm a = a ⊗ₜ 1 := rfl
+theorem rid_symm_apply (a : A) : (Bialgebra.TensorProduct.rid R S A).symm a = a ⊗ₜ 1 := rfl
 
 end Bialgebra.TensorProduct
 namespace BialgHom
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Bialgebra/TensorProduct.lean:150]: Do you think this section should be heterogenized too?

File: Mathlib/RingTheory/Coalgebra/TensorProduct.lean [hunk 3]
```diff
@@ -9,55 +9,59 @@ import Mathlib.RingTheory.Coalgebra.Equiv
...
+Suppose `S` is an `R`-algebra. Given an `S`-coalgebra `A` and `R`-coalgebra `B`, we can define
+a natural comultiplication map `Δ : A ⊗[R] B → (A ⊗[R] B) ⊗[S] (A ⊗[R] B)`
+and counit map `ε : A ⊗[R] B → S` induced by the comultiplication and counit maps of `A` and `B`.
 
 In this file we show that `Δ, ε` satisfy the axioms of a coalgebra, and also define other data
 in the monoidal structure on `R`-coalgebras, like the tensor product of two coalgebra morphisms
 as a coalgebra morphism.
 
+In particular, when `R = S` we get tensor products of coalgebras, and when `A = S` we get
+the base change `S ⊗[R] B` as an `R`-coalgebra.
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Coalgebra/TensorProduct.lean:21]:
```suggestion
the base change `S ⊗[R] B` as an `S`-coalgebra.
```

File: Mathlib/RingTheory/HopfAlgebra/TensorProduct.lean [hunk 4]
```diff
@@ -17,35 +17,36 @@ open Coalgebra TensorProduct HopfAlgebra
...
       hopf_tensor_induction comul (R := R) y with y₁ y₂
       simp
     · dsimp [Algebra.TensorProduct.one_def]
-      simp [Algebra.algebraMap_eq_smul_one, smul_tmul', mul_smul]
+      simp [Algebra.algebraMap_eq_smul_one, smul_tmul']
 
 @[simp]
 theorem antipode_def :
-    antipode (R := R) (A := B ⊗[R] A) = AlgebraTensorModule.map antipode antipode := rfl
+    antipode (R := S) (A := B ⊗[R] A) = AlgebraTensorModule.map antipode antipode := rfl
```
Comment (eric-wieser) [inline Mathlib/RingTheory/HopfAlgebra/TensorProduct.lean:50]: This will clash with #25060 again, but I guess I can fix the conflicts easily enough.

File: Mathlib/RingTheory/Bialgebra/TensorProduct.lean (hunk 2 above)
Comment (erdOne) [reply Mathlib/RingTheory/Bialgebra/TensorProduct.lean:150]: I think `ltensor` and `tensor` are over fixed base for linear maps too and if you want general base you should just `Bialgebra.TensorProduct.map` manually.

**Review by eric-wieser — APPROVED** [review]
bors d+

File: Mathlib/RingTheory/Bialgebra/TensorProduct.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/RingTheory/Bialgebra/TensorProduct.lean:150]: Can you check that holds today for CoAlgHom and AlgHom?

Comment (erdOne) [reply Mathlib/RingTheory/Bialgebra/TensorProduct.lean:150]: We do not have `AlgHom.lTensor`, and `CoalgHom.lTensor` is currently over fixed base purely because everything for `CoalgHom` is over a fixed base before this PR. I didn't touch them in this PR too.

Comment (eric-wieser) [reply Mathlib/RingTheory/Bialgebra/TensorProduct.lean:150]: Sure, lets leave that for when we need it then.

**Comment by erdOne** [comment]
Thanks so much for the swift reviews!
bors merge
